US06831175B2
[2-(5-Bromo-pyridin-3-ylamino)-ethyl]-carbamic acid tert-butyl ester
A 50 mL RBF was charged with 3,5-dibromopyridine (3.70 g, 15.6 mmol), t-butyl N-(2-aminoethyl)carbamate (2.50 g, 15.6 mmol), Pd2(dba)3 (714 mg, 0.78 mmol), (R)-BINAP (1.46 g, 2.34 mol) and Cs2CO3 (7.62 g, 23.4 mmol), and was purged with N2. Anhydrous toluene (120 mL) was added via syringe. The solution was purged with N2 again, and was heated at 100° C. overnight. After cooled, ethyl acetate (500 mL) was added and the mixture was washed with water. The EtOAc solution was concentrated and the residue was separated by flash chromatography (20-80% EtOAc in hexane) to provide the desried product (2.1 g, 43%). MS (DCI) m/z 316, 318 (M+1)+.

reactant | 3,5-dibromopyridine | 15.6 mmol, 3.70 g | BrC=1C=NC=C(C1)Br | C5H3Br2N
reactant | t-butyl N-(2-aminoethyl)carbamate | 15.6 mmol, 2.50 g | NCCNC(OC(C)(C)C)=O | C7H16N2O2
reactant | (R)-BINAP | 2.34 mol, 1.46 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=CC=C7)C8=CC=CC=C8 | C44H32P2
reactant | Cs2CO3 | 23.4 mmol, 7.62 g | C(=O)([O-])[O-].[Cs+].[Cs+]
catalyst | Pd2(dba)3 | 0.78 mmol, 714 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | [2-(5-Bromo-pyridin-3-ylamino)-ethyl]-carbamic acid tert-butyl ester | 2.1 g, 43% | C(C)(C)(C)OC(NCCNC=1C=NC=C(C1)Br)=O | C12H18BrN3O2
